US06054457
To a solution of 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (250 mg) was added 4 N hydrogen chloride in ethyl acetate (1 ml) and the solution was stirred at ambient temperature for 10 minutes. The white solid was filtered and dried under reduced pressure to give 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide dihydrochloride (205 mg) as a white powder.

reactant | 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 250 mg | NCCCOC1=C(C(=O)NC2=CC=C(C(=O)N(C3=C(C=CC=C3)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)C=CC=C1 | C35H45N5O5
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide dihydrochloride | 205 mg | Cl.Cl.NCCCOC1=C(C(=O)NC2=CC=C(C(=O)N(C3=C(C=CC=C3)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)C=CC=C1 | InChI=1S/C35H45N5O5.2ClH/c1-38-21-23-40(24-22-38)33(41)15-4-3-9-25-45-32-14-8-6-12-30(32)39(2)35(43)27-16-18-28(19-17-27)37-34(42)29-11-5-7-13-31(29)44-26-10-20-36;;/h5-8,11-14,16-19H,3-4,9-10,15,20-26,36H2,1-2H3,(H,37,42);2*1H
